data/core_train_final.csv
"N#CCC[N]([O:20])[C@H](C(OC)=O)[C@@H]1C[CH:12][CH:11]=[CH:10]1>>O=C([C@H]2N(CCC#N)[O:20][CH:10]3C2C[CH:12]=[CH:11]3)OC 12-11,12;10,11-11,12;11,10-10,20;20-10,20",Room Temperature,Termination,addition
"[H:20][C:21](C)(C)C1(CCCCC1)C.[Br:10]>>[H:20][Br:10].C[C:21](C)C1(CCCCC1)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:5]([CH3:7])([CH3:8])[CH2:4][CH2:3][C:2]([CH3:1])([CH3:9])[CH3:10].[Cl:11]>>[H:6][Cl:11].[CH3:7][C:5]([CH3:8])[CH2:4][CH2:3][C:2]([CH3:1])([CH3:9])[CH3:10] 11-11,6;6,5-11,6;5,6-5",Room Temperature,Propagation,abstraction
"[CH3:6][CH2:7][O:8][C:9](=[O:22])[CH:10]([CH3:21])[CH2:11][C:12](=[CH:14][CH2:15][CH2:16][C:17](=[CH:19][CH2:20])[CH3:18])[CH3:13].[CH3:5][C:2](=[CH2:1])[CH:3]=[CH2:4]>>[CH3:6][CH2:7][O:8][C:9](=[O:22])[CH:10]([CH3:21])[CH2:11][C:12](=[CH:14][CH2:15][CH2:16][C:17](=[CH:19][CH2:20][CH2:1][C:2](=[CH:3][CH2:4])[CH3:5])[CH3:18])[CH3:13] 20-1,20; 1,2-1,20; 1,2-3,2; 3,4-3,2; 3,4-4",Room Temperature,Propagation,addition
"[H:6][S:5][CH2:4][C:3](=[O:7])[O:2][CH3:1].[CH3:10][C:9]([CH3:11])([CH3:12])[O:8]>>[H:6][O:8][C:9]([CH3:10])([CH3:11])[CH3:12].[CH3:1][O:2][C:3](=[O:7])[CH2:4][S:5] 8-8,6; 5,6-5; 5,6-8,6",Room Temperature,Propagation,abstraction
"[H:20][O:21][C:22](CCC=C)C1=CC=CC=C1.[Br:10]>>[H:20][Br:10].C=CCC[C:22](=[O:21])C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH3:17][C:16]1([CH2:19][CH2:20][CH2:21][C:22]([N:15]1[O:14][CH:13]2[C:25](=[O:26])[N:9]([CH:3]([C:2](=[O:1])[N:11]2[CH3:12])[O:4][CH2:5][CH:6]=[C:7]=[CH2:8])[CH3:10])([CH3:23])[CH3:24])[CH3:18].[Ar:27]>>[CH3:17][C:16]1([CH2:19][CH2:20][CH2:21][C:22]([N:15]1[O:14])([CH3:23])[CH3:24])[CH3:18].[CH3:12][N:11]1[CH:13][C:25](=[O:26])[N:9]([CH:3]([C:2]1=[O:1])[O:4][CH2:5][CH:6]=[C:7]=[CH2:8])[CH3:10].[Ar:27] 13,14-14; 13,14-13",Room Temperature,Initiation,homolyze
"[H:4][C:3]1[CH2:5][CH2:6][CH2:7][CH:2]1[Cl:1].[Cl:8][Cl:9]>>[H:4][C:3]1([CH2:5][CH2:6][CH2:7][CH:2]1[Cl:1])[Cl:8].[Cl:9] 3-3,8;8,9-3,8;8,9-9",Room Temperature,Propagation,abstraction
"[O:10][O].[Cl:20]>>[O][O:10][Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"N#CCC[N+:10]1([O-])[C@H:20]2C[C@@H]([C@H]1C(OC)=O)C=C2>>N#CCC[N+:10]([O-])[C@H](C(OC)=O)[C@@H]3C[CH:20]C=C3 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(CCCCC1)C.[Br:10]>>[H:20][Br:10].C[C:21]1CCCCC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1C=CC2=C1C=CC=C2.[Br:10]>>[H:20][Br:10].C1=CC2=C(C=C1)[CH:21]C=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[C:20](=[C:21](F)F)(F)F.[C:10](C(C(C(F)(F)S(=O)(=O)[O-])(F)F)(F)F)(F)F>>[C:21]([C:20]([C:10](C(C(C(F)(F)S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F)(F)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21](C)(C)C.[Cl:10].[Ar]>>[Ar].[H:20][Cl:10].C[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Heat,Propagation,abstraction
"[H:20][Sn:21](CCCC)(CCCC)CCCC.C[C:10](C)C#N>>[H:20][C:10](C)(C)C#N.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCCCCCC[CH:21](C1CCC1)[C:20](=O)[O:10].CCCC[Sn](CCCC)(CCCC)SC1=NC=CC=C1>>CCCCCCCCCCC[CH:21]C1CCC1.CCCC[Sn](CCCC)(CCCC)SC1=NC=CC=C1.[C:20](=O)=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(=O)O[CH:21]=[CH2:20].CC(=O)O[CH:10]CCN(C)CCN(C)C>>CC(=O)O[CH:21][CH2:20][CH:10](CCN(C)CCN(C)C)OC(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C=C[CH2:10].[Br:20][Br:21]>>C=C[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][C:7]([H:9])[CH2:6][CH:3]([CH2:2][CH3:1])[CH2:4][CH3:5].[Cl:10][Cl:11]>>[H:8][C:7]([H:9])([CH2:6][CH:3]([CH2:2][CH3:1])[CH2:4][CH3:5])[Cl:10].[Cl:11] 7-7,10;10,11-7,10;10,11-11",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1=[CH:3][CH:4]([CH:10]2[CH2:15][CH:14]1[C:11]2([CH3:12])[CH3:13])[O:5][C:6](=[O:9])[N:7][CH3:8]>>[CH3:1][C:2]1[CH:14]2[CH2:15][CH:10]([C:11]2([CH3:12])[CH3:13])[CH:4]3[CH:3]1[N:7]([C:6](=[O:9])[O:5]3)[CH3:8] 2,3-2; 2,3-3,7; 7-7,3",Room Temperature,Propagation,addition
"CC(=C[CH2:10])C.[Br:20][Br:21]>>CC(=C[CH2:10][Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:6]=[S:5](=[O:9])([O:4][O:3][S:2](=[O:1])(=[O:12])[O:10][K:11])[O:7][K:8].[Ar:13]>>[O:6]=[S:5](=[O:9])([O:4])[O:7][K:8].[O:1]=[S:2](=[O:12])([O:3])[O:10][K:11].[Ar:13] 4,3-4; 4,3-3",Room Temperature,Initiation,homolyze
